US07423030B2
44.2. 7-Chloro-4-(4-methoxyphenyl)-2H-phthalazin-1-one
This compound is obtained according to the procedure described in 1.2. by reacting unpurified 5-chloro-2-(4-methoxybenzoyl)benzoic acid with hydrazine hydrate.

reactant | 5-chloro-2-(4-methoxybenzoyl)benzoic acid | ClC=1C=CC(=C(C(=O)O)C1)C(C1=CC=C(C=C1)OC)=O | C15H11ClO4
reactant | hydrazine hydrate | O.NN
product | 7-Chloro-4-(4-methoxyphenyl)-2H-phthalazin-1-one | ClC1=CC=C2C(=NNC(C2=C1)=O)C1=CC=C(C=C1)OC | C15H11ClN2O2
